### PR TITLE
[Merged by Bors] - chore(LinearAlgebra/Alternating): process porting notes

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Alternating/DomCoprod.lean [hunk 1]
```diff
@@ -96,35 +94,18 @@ theorem domCoprod.summand_eq_zero_of_smul_invariant (a : Mᵢ [⋀^ιa]→ₗ[R'
...
-    intro i' j' _ _ hσ
-    obtain ⟨⟨sl, sr⟩, hσ⟩ := QuotientGroup.leftRel_apply.mp (Quotient.exact' hσ)
-    replace hσ := Equiv.congr_fun hσ (Sum.inr i')
-    dsimp only at hσ
-    rw [smul_eq_mul, ← mul_swap_eq_swap_mul, mul_inv_rev, swap_inv, inv_mul_cancel_right] at hσ
-    simp at hσ
+  obtain ⟨⟨sl, sr⟩, hσ⟩ := QuotientGroup.leftRel_apply.mp (Quotient.exact' hσ)
+  rcases hi : σ⁻¹ i with i' | i' <;> rcases hj : σ⁻¹ j with j' | j' <;>
+    rw [Perm.inv_eq_iff_eq] at hi hj <;> substs hi hj
+  case inl.inr => simpa using Equiv.congr_fun hσ (Sum.inl i')
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Alternating/DomCoprod.lean:100]: This comment got dropped.
```suggestion
  -- the term pairs with and cancels another term
  case inl.inr => simpa using Equiv.congr_fun hσ (Sum.inl i')
```

**Review by Vierkantor — APPROVED** [review]
Some real improvements, nice work!

bors d+
